US04225731
45 g of sodium hydroxide and 10 g of tetraethylammonium chloride in 200 g of methanol are initially introduced, 112.5 g of 2-chloro-5-nitro-benzotrifluoride are added dropwise at 25° to 30° C. and the mixture is then stirred at 30° C. for a further 5 hours. The mixture is then poured into 250 ml of water and extracted with methylene chloride. After evaporating off the solvent, the compound is recrystallised from isopropanol. 67 g of 2-methoxy-5-nitro-benzotrifluoride with a melting point of 70° to 74° C. are obtained.

reactant | sodium hydroxide | 45 g | [OH-].[Na+]
reactant | 2-chloro-5-nitro-benzotrifluoride | 112.5 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
reactant | water | 250 ml | O | H2O
reactant | methanol | 200 g | CO | CH4O
catalyst | tetraethylammonium chloride | 10 g | [Cl-].C(C)[N+](CC)(CC)CC
product | 2-methoxy-5-nitro-benzotrifluoride | 67 g | COC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C8H6F3NO3
